US07439393B2
iv) N-Cyclopropyl-3′-[(2-[(6-{[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]ethoxy)methyl]-1,1′-biphenyl-2-sulfonamide
A stirred mixture of 1,1-dimethylethyl cyclopropyl{[3′-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)-1,1′-biphenyl-2-yl]sulfonyl}carbamate (260 mg) and potassium trimethylsilanolate (420 mg) in THF (10 ml) was heated under reflux for 2 h. The mixture was cooled to 20°, poured into phosphate buffer solution (pH6.5, 50 ml) and extracted with EtOAc (3×30 ml). The combined organic extracts were washed with water (50 ml), dried (MgSO4) and the solvent evaporated in vacuo to give a residue which was purified by Biotage. Elution with dichloromethane-ethanol-ammonia (100:8:1) gave the title compound (132 mg). LCMS RT=3.06 min, ES+ve 653 (MH)+.

reactant | 1,1-dimethylethyl cyclopropyl{[3′-({2-({6-[(5R)-5-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-oxo-1,3-oxazolidin-3-yl]hexyl}oxy)ethoxy}methyl)-1,1′-biphenyl-2-yl]sulfonyl}carbamate | 260 mg | C1(CC1)N(C(OC(C)(C)C)=O)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=CC=C1)COCCOCCCCCCN1C(O[C@@H](C1)C1=CC2=C(OC(OC2)(C)C)C=C1)=O | C42H54N2O10S
reactant | potassium trimethylsilanolate | 420 mg | C[Si]([O-])(C)C.[K+]
reactant | phosphate | 50 ml, pH6.5 | P(=O)([O-])([O-])[O-]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-Cyclopropyl-3′-[(2-[(6-{[(2R)-2-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)-2-hydroxyethyl]amino}hexyl)oxy]ethoxy)methyl]-1,1′-biphenyl-2-sulfonamide | 132 mg | C1(CC1)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=CC=C1)COCCOCCCCCCNC[C@H](O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C36H48N2O7S
